US09302991B2
<Step-6>:2-azido-2-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanol (single enantiomer)
Sodium azide (1.05 g, 16.2 mmol) and lithium perchlorate (6.45 g, 60.7 mmol) are added to a solution of 5-(oxiran-2-yl)-2-(2,2,2-trifluoroethoxy)pyridine (0.89 g, 4.04 mmol, Step-5, single enantiomer) in acetonitrile (100 mL) is refluxed with stirring for 5 hours. White precipitate is filtrated and filtrate is concentrated in vacuo. The residue is poured into water, extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (1:1) to give 0.39 g (37% yield) of the title compound as colorless oil.

reactant | Sodium azide | 16.2 mmol, 1.05 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium perchlorate | 60.7 mmol, 6.45 g | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | 5-(oxiran-2-yl)-2-(2,2,2-trifluoroethoxy)pyridine | 4.04 mmol, 0.89 g | O1C(C1)C=1C=CC(=NC1)OCC(F)(F)F | C9H8F3NO2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-azido-2-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanol | 0.39 g, 37% yield | N(=[N+]=[N-])C(CO)C=1C=NC(=CC1)OCC(F)(F)F | C9H9F3N4O2
